US08809548B2
J.3, 2-Bromo-6,7,8,9-tetrahydro-5H-benzo[7]annulen-5-one (1.5 g, 5.9 mmol) was dissolved in 2:1 ether/tetrahydrofuran (120 mL) and 1N HCl in ether (9 mL) was added. The solution was cooled to 0° C. before addition of isoamyl nitrite (1.2 mL, 9 mmol) and the reaction was stirred 18 h at 24° C., concentrated, and applied to 25 (M) Biotage silica gel column. Gradient elution from 15-100% B (A=Hexanes; B=ethyl acetate) over 1 L and gave J.3a (E)-2-bromo-6-(hydroxyimino)-6,7,8,9-tetrahydro-5H-benzo[7]annulen-5-one 1 g (64%). LC (Cond.-J1); RT=1.9 min; LC/MS: Anal. Calcd. for [M+H]+ C11H10NBrO2: 268; found: 268.

reactant | 2-Bromo-6,7,8,9-tetrahydro-5H-benzo[7]annulen-5-one | 5.9 mmol, 1.5 g | BrC=1C=CC2=C(CCCCC2=O)C1 | C11H11BrO
reactant | isoamyl nitrite | 9 mmol, 1.2 mL | N(=O)OCCC(C)C | C5H11NO2
solvent | ether tetrahydrofuran | 120 mL | CCOCC.O1CCCC1
solvent | HCl | 1N | Cl | ClH
solvent | ether | 9 mL | CCOCC | C4H10O
product | (E)-2-bromo-6-(hydroxyimino)-6,7,8,9-tetrahydro-5H-benzo[7]annulen-5-one | 1 g, 64% | BrC=1C=CC2=C(CCC\C(\C2=O)=N/O)C1 | C11H10BrNO2
